US08242104B2
Isopropyl iodide (165 uL, 1.65 mmol) was added to a mixture of 417 mg (1.21 mmol) of 9-bromo-2-(4-methyl-1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine and cesium carbonate (538 mg, 1.65 mmol) in 3 ml of N,N-dimethylformamide. The reaction mixture was stirred at room temperature for 18 hours, mixed with water and extracted with ethyl acetate. The organic extract was washed with water, brine, dried over MgSO4, concentrated, and purified on 4 g silica column eluting with 4-5% methanol in DCM to give 210 mg of 9-bromo-2-(1-isopropyl-4-methyl-1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine. MS: 387.1.

reactant | Isopropyl iodide | 1.65 mmol, 165 uL | C(C)(C)I | C3H7I
reactant | 9-bromo-2-(4-methyl-1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 1.21 mmol, 417 mg | BrC1=CC2=C(C=3N(CCO2)C=C(N3)C=3NC=C(N3)C)C=C1 | C15H13BrN4O
reactant | cesium carbonate | 1.65 mmol, 538 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 9-bromo-2-(1-isopropyl-4-methyl-1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 210 mg | BrC1=CC2=C(C=3N(CCO2)C=C(N3)C=3N(C=C(N3)C)C(C)C)C=C1 | C18H19BrN4O
